US07214715B2
A mixture of 4-benzyloxybutyric acid (2.69 g, 13.8 mmol), propylamine (0.82 g, 13.8 mmol), HOBt (2.05 g, 15.2 mmol), N-methylmorpholine (1.68 g, 16.6 mmol) and EDC (2.91 g, 15.2 mmol) in DMF (6 mL) is stirred at 20–25 degrees C. for 18 hours. The mixture is diluted with ethyl acetate (40 mL) and washed with water (10 mL), hydrochloric acid (1 N, 10 mL), saturated sodium bicarbonate (10 mL), and saline (10 mL). The organic phase is separated, dried over magnesium sulfate, filtered, and concentrated under reduced pressure to provide 4-(benzyloxy)-N-propylbutanamide (2.59 g), APCI-MS (m/z) [M+H]+=236.

reactant | 4-benzyloxybutyric acid | 13.8 mmol, 2.69 g | C(C1=CC=CC=C1)OCCCC(=O)O | C11H14O3
reactant | propylamine | 13.8 mmol, 0.82 g | C(CC)N | C3H9N
reactant | HOBt | 15.2 mmol, 2.05 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 16.6 mmol, 1.68 g | CN1CCOCC1 | C5H11NO
reactant | EDC | 15.2 mmol, 2.91 g
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | 4-(benzyloxy)-N-propylbutanamide | 2.59 g | C(C1=CC=CC=C1)OCCCC(=O)NCCC | C14H21NO2
